US06762300B2
1) Synthesis of 5-(4-tert-butoxycarbonylpiperazin-1-yl)benzofuran-2-carboxamide
5 ml of 1-methyl-2-pyrrolidone, 0.16 g of chloroacetamide and 0.25 g of potassium carbonate are added at 20° C. with stirring/under nitrogen to 0.5 g of 5-(4-tert-butoxycarbonylpiperazin-1-yl)-2-hydroxybenzaldehyde. The mixture is stirred at 60° C. for 16 hours, cooled and then filtered, and the solvent is removed under reduced pressure. The residue is taken up in MTB ether, re-filtered and concentrated, and the residue is crystallized from toluene. The isolated yield is 0.34 g (60%).

reactant | chloroacetamide | 0.16 g | ClCC(=O)N | C2H4ClNO
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(4-tert-butoxycarbonylpiperazin-1-yl)-2-hydroxybenzaldehyde | 0.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC(=C(C=O)C1)O | C16H22N2O4
solvent | 1-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(4-tert-butoxycarbonylpiperazin-1-yl)benzofuran-2-carboxamide | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C18H23N3O4
